US06022906
25b 1-[4-(3-Hydroxy-propylthio)-phenyl]-2-(3-hydroxymethyl-piperidin-1-yl)-2-methyl-propan-1-one
22.4 g of 1-(4-chloro-phenyl)-2-(3-hydroxymethyl-piperidin-1-yl)-2-methyl-propan-1-one, 8.39 g of 3-mercaptopropanol and 21.0 g of potassium carbonate are mixed in 75 ml of dried dimethylacetamide. After stirring for 18 h at 80° C., the mixture is filtered to remove solids and poured into ice-water. The crude product is extracted with ethyl acetate, washed with saturated NaCl solution and dried over MgSO4. After ethyl acetate is distilled off, the residue is purified by means of column chromatography on silica gel with ethyl acetate-hexane (40:60) as an eluent, and an oily product is obtained. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm] 1.02 (m, 1H), 1.29 (s, 3H), 1.30 (s, 3H), 1.52-1.77 (m, 6H), 1.95 (m, 2H), 2.05 (t, 1H), 2.27 (t, 1H), 2.67 (d, 1H), 2.86 (d, 1H), 3.12 (t, 2H), 3.44 (m, 2H), 3.78 (m, 2H), 7.28 (d, 2H), 8.48 (d, 2H).

reactant | 1-(4-chloro-phenyl)-2-(3-hydroxymethyl-piperidin-1-yl)-2-methyl-propan-1-one | 22.4 g | ClC1=CC=C(C=C1)C(C(C)(C)N1CC(CCC1)CO)=O | C16H22ClNO2
reactant | 3-mercaptopropanol | 8.39 g | SCCCO | C3H8OS
reactant | potassium carbonate | 21.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | 75 ml | CC(=O)N(C)C | C4H9NO
product | 1-[4-(3-Hydroxy-propylthio)-phenyl]-2-(3-hydroxymethyl-piperidin-1-yl)-2-methyl-propan-1-one | OCCCSC1=CC=C(C=C1)C(C(C)(C)N1CC(CCC1)CO)=O | C19H29NO3S
